US03997557
A stirred mixture of 15.9 g (0.11 mole) of 1-pyrrolidino-1-cyclohexene, 28.0 g (0.11 mole) of m-trifluoromethylphenacyl bromide, and 100 ml. of toluene is heated under reflux for 2 hours, diluted with water, and refluxed for 2 hours. The layers are separated, and the organic phase is dried and concentrated to a liquid. Distillation provides 2-(m-trifluoromethylphenacyl)cyclohexanone as a liquid, b.p. 137°-138° C. (0.075 mm).

reactant | 1-pyrrolidino-1-cyclohexene | 0.11 mole, 15.9 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | m-trifluoromethylphenacyl bromide | 0.11 mole, 28.0 g | FC(C=1C=C(C(CBr)=O)C=CC1)(F)F | C9H6BrF3O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
product | 2-(m-trifluoromethylphenacyl)cyclohexanone | FC(C=1C=C(C(CC2C(CCCC2)=O)=O)C=CC1)(F)F | C15H15F3O2
